US03948814
Into an 1 l reaction flask is placed 216 g vinylethyl ether. Under stirring a solution of 0.2 g concentrated sulfuric acid (s.g. 1.84) in 154 g linalool is added over a 2 hour period at 30°C. Then 100 g of a 10-percent soda solution are added to the reaction mixture and the entire mixture is stirred for half an hour. The organic upper layer is separated and fractionated with 0.5 g soda to obtain 186 g acetaldehyde ethyl linalyl acetal. The acetal has a boiling point of 90°-94°C. at 2 mm Hg; nD20 1,4495-1,4485. The addition of soda to the product to be distilled prevents the formation of 5.9-dimethyl-4.8-decadien-1-al during the fractionation.

reactant | vinylethyl ether | 216 g | C(=C)OCC | C4H8O
reactant | sulfuric acid | 0.2 g | S(O)(O)(=O)=O | H2O4S
reactant | linalool | 154 g | C=CC(O)(C)CCC=C(C)C | C10H18O
product | acetaldehyde ethyl linalyl acetal | 186 g | C(C)(C=C)(CCC=C(C)C)OC(C)OCC | C14H26O2
